US07109354B2
b) {Imino-[5-methylsulfanyl-4-(5-o-tolyl-pyridine-3-sulfonyl)-thiophen-2-yl]-methyl}-carbamic acid tert-butyl ester
The procedure described in Example 1: step c was followed using {[4-(5-Bromo-pyridine-3-sulfonyl)-5-methylsulfanyl-thiophen-2-yl]-imino-methyl}-carbamic acid tert-butyl ester (50 mg, 0.08 mmol), 2-methyl phenyl boronic acid (23 mg, 0.17 mmol), Pd(PPh3)4 (19 Mg, 0.02 mmol), aqueous Na2CO3 (2M, 800 μL, 0.4 mmol), ethanol (800 μL) and toluene (1600 μL). The reaction was heated to 80° C. for 12 hours. The residue was dissolved into EtOAc and washed with brine. The organic layers were dried (MgSO4) and removal of the solvents in vacuo resulted in a crude mixture of the product that was used without further purification or characterization.

reactant | {[4-(5-Bromo-pyridine-3-sulfonyl)-5-methylsulfanyl-thiophen-2-yl]-imino-methyl}-carbamic acid tert-butyl ester | 0.08 mmol, 50 mg | C(C)(C)(C)OC(NC(=N)C=1SC(=C(C1)S(=O)(=O)C=1C=NC=C(C1)Br)SC)=O | C16H18BrN3O4S3
reactant | 2-methyl phenyl boronic acid | 0.17 mmol, 23 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | Na2CO3 | 0.4 mmol, 2M, 800 μL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethanol | 800 μL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.02 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 1600 μL | C1(=CC=CC=C1)C | C7H8
product | {Imino-[5-methylsulfanyl-4-(5-o-tolyl-pyridine-3-sulfonyl)-thiophen-2-yl]-methyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C=1SC(=C(C1)S(=O)(=O)C=1C=NC=C(C1)C1=C(C=CC=C1)C)SC)=N)=O | C23H25N3O4S3
